US07855216B2
Step 2: 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (71 mg, 0.13 mmol) was dissolved in methanol (0.5 ml) and loaded onto an Isolute® SCX-2 cartridge (5 g). The cartridge was then washed with methanol (15 ml) and the desired product was subsequently eluted using 2M NH3 in MeOH. The eluant was collected and concentrated to give a residue. The residue was purified by flash chromatography (Si-PPC, dichloromethane:MeOH, gradient 100:0 to 90:10) followed by reversed phase HPLC (Phenomenex Luna 5 phenyl/hexyl, 0.1% TFA in water on a gradient of acetonitrile 100:0 to 40:60) to afford the title compound as a white solid (12 mg, 15%). LCMS (method A): RT=4.83 min, M+H+=501. 1H NMR (d4-MeOH, 400 MHz) 8.61 (s, 1H), 8.30 (d, J=6.0 Hz, 1H), 7.59 (d, J=6.0 Hz, 1H), 7.44 (dd, J=11.0 Hz, 1.8 Hz, 1H), 7.18-7.23 (m, 1H), 6.37 (dd, J=9.0 Hz, 9.0 Hz, 1H), 3.99 (s, 3H), 3.89-3.95 (m, 1H), 3.77-3.86 (m, 2H), 3.47-3.59 (m, 2H).

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.13 mmol, 71 mg | CC1(OC[C@@H](O1)CONC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F)C | C21H22FIN4O4
solvent | methanol | 0.5 ml | CO | CH4O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | 12 mg, 15% | O[C@@H](CONC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F)CO | C18H18FIN4O4
